US07544704B2
4-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-N-(tetrahydro-pyran-4-yl)-benzamide
As described for example 7b, 4-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid (250 mg; 0.82 mmol) instead of 3-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid was converted using 4-amino-tetrahydropyrane instead of aminomethylcyclopropane to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 281 mg, 88%) which was obtained as a white solid. MS: m/e=387.1 [M+H]+.

reactant | 4-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid | 0.82 mmol, 250 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC1=CC=C(C(=O)O)C=C1 | C19H13NO3
reactant | 4-amino-tetrahydropyrane | NC1CCOCC1 | C5H11NO
product | 4-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-N-(tetrahydro-pyran-4-yl)-benzamide | 281 mg, 88% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC1=CC=C(C(=O)NC2CCOCC2)C=C1 | C24H22N2O3
